US07812183B2
4-(5-Chloro-benzooxazol-2-ylamino)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #2)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 5-chloro-benzooxazol-2-ylamine as starting material, the title compound was prepared as a white solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 5-chloro-benzooxazol-2-ylamine | ClC=1C=CC2=C(N=C(O2)N)C1 | C7H5ClN2O
product | 4-(5-Chloro-benzooxazol-2-ylamino)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | ClC=1C=CC2=C(N=C(O2)NC2C(C(OC3=CC=C(C=C23)C#N)(C)C)O)C1 | C19H16ClN3O3
